US04725622
To a solution of 500 mgs of ethyl (E)-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-thiohexenoate in 10 ml of benzene cooled in an ice bath was added 0.1 ml of pyridine and 6 ml of a 12.5% solution of phosgene in benzene. The solution was stirred at 25° C. overnight, the precipitate filtered off and solvent removed from the filtrate under reduced pressure. The residue was dissolved in 5 ml of tetrahydrofuran and to this solution was added dropwise a solution of ammonia in tetrahydrofuran until the reaction was complete. The mixture was poured into water and extracted with ethyl acetate. The organic solution was dried over magnesium sulfate and evaporated to an oil which was chromatographed on silica gel, eluting with a 1:1 mixture of ethyl acetate and hexane. The purified product was stirred with a mixture of ether and hexane and filtered giving ethyl (E)-6-(1,3-dihydro-4-carbamoyl oxy-6-methoxy-7-methyl-3-oxo-5-iso benzofuranyl)-4-methyl-4-thiohexenoate, mp 145°-147° C.

reactant | ethyl (E)-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-thiohexenoate | 500 mgs | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=S)OCC)\C)OC)C)=O | C19H24O5S
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | ethyl (E)-6-(1,3-dihydro-4-carbamoyl oxy-6-methoxy-7-methyl-3-oxo-5-iso benzofuranyl)-4-methyl-4-thiohexenoate | C(N)(=O)OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=S)OCC)\C)OC)C)=O | C20H25NO6S
